US05212320
To a solution of 4-[3-[3,5-bis[N-(4-isobutylbenzyl)-N-tert-butoxycarbonylamino]benzoyl]indol-1-yl]butyric acid (1.02 g) in toluene (10 ml) was added 4N solution of hydrogen chloride in 1,4-dioxane (30 ml) at 25° C. The mixture was stirred at 25° C. for 1 hour, and then hexane (30 ml) was added. The precipitates were filtered and washed with isopropyl ether and hexane to give 4-[3-[3,5-bis[(4-isobutylbenzyl)amino]benzoyl]indol-1-yl]butyric acid dihydrochloride (688 mg) as white powder.

reactant | 4-[3-[3,5-bis[N-(4-isobutylbenzyl)-N-tert-butoxycarbonylamino]benzoyl]indol-1-yl]butyric acid | 1.02 g | C(C(C)C)C1=CC=C(CN(C(=O)OC(C)(C)C)C=2C=C(C(=O)C3=CN(C4=CC=CC=C34)CCCC(=O)O)C=C(C2)N(CC2=CC=C(C=C2)CC(C)C)C(=O)OC(C)(C)C)C=C1 | C51H63N3O7
reactant | hydrogen chloride | Cl | ClH
reactant | hexane | 30 ml | CCCCCC | C6H14
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-[3-[3,5-bis[(4-isobutylbenzyl)amino]benzoyl]indol-1-yl]butyric acid dihydrochloride | 688 mg | Cl.Cl.C(C(C)C)C1=CC=C(CNC=2C=C(C(=O)C3=CN(C4=CC=CC=C34)CCCC(=O)O)C=C(C2)NCC2=CC=C(C=C2)CC(C)C)C=C1 | InChI=1S/C41H47N3O3.2ClH/c1-28(2)20-30-11-15-32(16-12-30)25-42-35-22-34(23-36(24-35)43-26-33-17-13-31(14-18-33)21-29(3)4)41(47)38-27-44(19-7-10-40(45)46)39-9-6-5-8-37(38)39;;/h5-6,8-9,11-18,22-24,27-29,42-43H,7,10,19-21,25-26H2,1-4H3,(H,45,46);2*1H
